US06858651B2
To 260 mg (0.56 mmol) trans-N-Methoxy-N-methyl-4-{4-[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexyloxy}-butyramide in 10 ml THF were added 0.56 ml 3M (1.67 mmol, 3 eq) methylmagnesiumbromide in THF at −78° C. The solution was slowly warmed to RT over night, a saturated aqueous solution of NH4Cl was added and the mixture stirred for 30 min. The phases were separated and the inorganic phase was extracted with EtOAc. The combined organic ones were dried over Na2SO4 and evaporated. Column chromatography on silica gel with EtOAc/hexane 1:1 yielded 143 mg (61%) trans-N-Methyl-N-[4-(4-oxo-pentyloxy)-cyclohexyl]-4-trifluoromethyl-benzenesulfonamide as white solid, MS: 422 (MH+).

reactant | trans-N-Methoxy-N-methyl-4-{4-[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexyloxy}-butyramide | 0.56 mmol, 260 mg | CON(C(CCCO[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C)=O)C | C20H29F3N2O5S
reactant | methylmagnesiumbromide | 1.67 mmol, 3M, 0.56 ml, 3 eq | C[Mg]Br
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | trans-N-Methyl-N-[4-(4-oxo-pentyloxy)-cyclohexyl]-4-trifluoromethyl-benzenesulfonamide | 143 mg, 61% | CN(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)[C@@H]1CC[C@H](CC1)OCCCC(C)=O | C19H26F3NO4S
